US05559224
To 0.9 g of (2S)-4-(p-nitrobenzyloxycarbonyl)amino-2-hydroxybutyric acid dissolved in tetrahydrofuran were added, with cooling on an ice bath, 0.36 g of N-hydroxysuccunimide and 0.65 g of dicyclohexylcarbodiimide, followed by overnight reaction with stirring. To the solution were added 0.75 g of 1-(p-methoxybenzyloxycarbonyl)piperazine and 0.31 g of triethylamine, followed by 2 hours of reaction. After removal of insoluble material from the reaction mixture by filtration and subsequent concentration of the filtrate, a residue was mixed with ethyl acetate, washed with sodium bicarbonate aqueous solution, citric acid aqueous solution and sodium chloride aqueous solution in that order and then dried over sodium sulfate, followed by evaporation of the solvent under a reduced pressure. Thereafter, the resulting residue was subjected to a silica gel column chromatography to yield 1.33 g of 1-(p-methoxybenzyloxycarbonyl)-4-((2S)-(4-(p-nitrobenzyloxycarbonyl) amino-2-hydroxybutyryl)piperazine.

reactant | (2S)-4-(p-nitrobenzyloxycarbonyl)amino-2-hydroxybutyric acid | 0.9 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC[C@@H](C(=O)O)O)C=C1 | C12H14N2O7
reactant | dicyclohexylcarbodiimide | 0.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-(p-methoxybenzyloxycarbonyl)piperazine | 0.75 g | COC1=CC=C(COC(=O)N2CCNCC2)C=C1 | C13H18N2O3
reactant | triethylamine | 0.31 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2S)-(4-(p-nitrobenzyloxycarbonyl) amino-2-hydroxybutyryl)piperazine | [N+](=O)([O-])C1=CC=C(COC(=O)NCC[C@@H](C(=O)N2CCNCC2)O)C=C1 | C16H22N4O6
